Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
naproxen / prednisone / sertraline
 
Attending: ___.
 
Chief Complaint:
Syncopal episode
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old woman with ___ disease, anxiety, 
depression, who presents as a transfer from ___ ED to 
___ ED for syncope. 

4 days prior to presentation, Ms ___ was walking downstairs and 
had syncope with lightheadedness. She fell down ___ steps and 
hit her head. She presented to ___ and, per report, 
had a negative work up including HCT and plain films. She called 
her neurologist on discharge from ED, and was told to re-present 
for syncope eval. She was discharged without additional work up.

On the day of admission, she felt lightheaded and like she was 
going to pass out. She spoke with her neurologist, who told her 
to present to the ED and recommended transfer to ___ for syncope 
evaluation. 

She denies fevers, chills, weight gain/loss, dysuria, chest 
pain, heart palpitations, shortness of breath. She reports 
having neck, back, and belly pain which is unchanged since 
previous fall and is the result of multiple bruises. 

Per MD comments on ED ___: "Likely will need neurology for 
evaluation as inpt in addition to syncopal workup for ?autonomic 
dysfunction."

In the ED, initial vitals:  T 97.9 HR67 BP120/70 RR16 99% RA 
 
- Exam notable for:  "No signfiicnat motor functions on exam to 
suggest acute parkinsons"
- Labs notable for:  laboratory evaluation unremarkably
- Imaging notable for:  no imaging performed 
- Pt given:  
___ 00:32 PO/NG Carbidopa-Levodopa (___) 2 TAB  
___ 00:32 PO/NG Acetaminophen 1000 mg  
___ 02:11 PO/NG OxyCODONE (Immediate Release) 2.5 mg 

- Vitals prior to transfer:  97.8 hr67 BP99/45 RR15 95% RA 
 
On the floor, the patient reports feeling well. She was 
lightheaded when walking back from the bathroom in the ED. She 
does not feel lightheaded now. She clarifies some history: she 
was diagnosed with ___ disease at age ___ after tramatic 
brain injury (MVA with multiple fractures and 9h LOC in ___ 
___ years ago). She was told at the time she likely had a 
pre-disposition due to father and maternal GF both having the 
disease, which was unmasked by the TBI. 

She has had recurrent lightheadedness for years, which has been 
worsening over the last few months. She was seen by a 
cardiologist at ___ a few years ago, who prescribed 
midodrine PRN. She does not know the dose, but takes it rarely. 
When she had an episode of lightheadedness, she will take 
midodrine or lay down or both and they typically resolve. She 
has had several falls over the years as a result of her 
lightheadedness; the most recent this week where she fell down 
the stairs. She has also broken her wrist in the past as a 
result of falling. 

She had a recent hospitalization with acute onset L sided 
parasthesias and hemiplegia. Her primary neurologist, Dr ___, 
___ this to be a stroke. She saw Dr ___ thought 
this incident more likely severe represented severe migraine 
with aura given that she had a terrible headache at the time. 
She was discharged on ASA 81 since then. 

Regarding her ___ Disease: Per Dr ___ ___: "When she was seen here in consultation, Dr. ___ 
___ if it was another disorder and could have been a 
psychogenic movement disorder and suggested she have a scan and 
an attempt off the medicines but she is on the medicine and has 
done relatively well on them" 
 
Past Medical History:
___ diease
MVA ___ with polytrauma with TBI
Migraines
Hypotension on midodrine
Anxiety
Depression
 
Social History:
___
Family History:
Mother with HTN, DM
Father deceased, had ___ and blood clots
Sister with breast cancer
Sister with idiopathic intracranial HTN
2 healthy children in their ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS:  ___ ___ Temp: 97.8 Axillary BP: 101/66 L Lying 
HR: 67 RR: 16 O2 sat: 96% O2 delivery: RA Dyspnea: 0 RASS: 0 
Pain Score: ___ 
General: Alert, oriented, no acute distress. 
HEENT: There is a bruise under the right eye. Sclerae anicteric, 
MMM, oropharynx clear, EOMI, PERRL, neck supple, JVP not 
elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: There are several large ecchymoses: Under the R eye, on 
the right biceps, under the right clavicle, on the abdomen RUQ, 
and on the R thigh as well as both knees. 
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation. There is no tremor. 

DISCHARGE PHYSICAL EXAM:  
VITALS:  24 HR Data (last updated ___ @ 326) Temp: 97.8 (Tm 
97.8), BP: 101/66, HR: 67, RR: 16, O2 sat: 96%, O2 delivery: RA, 
Wt: 217.4 lb/98.61 kg   
General: Alert, oriented, no acute distress. 
HEENT: There is a bruise under the right eye.
CV: Regular rate and rhythm, no murmurs
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non distended  
GU: No foley  
Ext: Warm, well perfused, no edema
Skin: There are several large ecchymoses: Under the R eye, on 
the right biceps, under the right clavicle, on the abdomen RUQ, 
and on the R thigh as well as both knees. 
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation. There is no tremor. No cogwheel. 
 
Pertinent Results:
ADMISSION/DISCHARGE:
=====================

WBC-5.7 Hgb-12.4 Hct-37.7 Plt ___
Glucose-92 UreaN-12 Creat-0.7 Na-143 K-4.8 Cl-107 HCO3-26 
AnGap-10

IMAGING:
=====================
___ ECHO IMPRESSION:  Normal biventricular cavity sizes and 
regional/global biventricular systolic function. No valvular 
pathology or pathologic flow identified. Normal estimated 
pulmonary artery systolic pressure.

PRIOR STUDIES:
=====================
___ DOPAMINE REUPTAKE SCAN IMPRESSION:
Findings are not consistent with Parkinsonian syndromes.

___ AUTONOMIC TESTING RESULTS IMPRESSION:
This was a borderline study.  The heart rate approached criteria 
for an exaggerated postural tachycardia on tilt table testing. 
Measures of parasympathetic function were in the normal range. 
One measure of sympathetic adrenergic function was in the 
abnormal range.  Additional measures of sympathetic cholinergic 
function were in the normal range. The study provides no 
evidence of orthostatic hypotension or a predisposition to 
neurally mediated syncope.
 
Brief Hospital Course:
SUMMARY:
====================
This is a ___ year old woman with ___ disease, anxiety, 
depression, who presents as a transfer from ___ ED to 
___ ED for syncope. Of note, she had a ___ and plain films 
at ___ without evidence of a bleed or fracture. 

ACTIVE ISSUES:
====================
# Recurrent Syncope
Pt with long standing history of lightheadedness, pre-syncope, 
and syncope resulting in traumatic injuries, most recently this 
week resulting in black eye and multiple large ecchymosis. 
Notably, she frequently experiences a prodrome of nausea, 
sweating and light headedness, which may suggest a vaso-vagal 
component. She has had autonomic testing in the past (___) due 
to her ___ disease, which did not suggest a 
pre-disposition to neutrally mediated syncope. She has never had 
an echo and thus one was obtained on this admission and found to 
be completely normal, without evidence of pulmonary hypertension 
or valvular disease. She apparently has had recurrent 
hypotension for which someone prescribed her an unknown dose of 
midodrine in the past which she rarely takes. Her symptoms are 
exaggerated when going from sitting to standing, suggesting an 
orthostatic component; her orthostatics on admission were not 
overwhelmingly positive though her diastolic pressure did drop 
10 points. It is certainly possible that she has autonomic 
dysfunction and may benefit from repeat outpatient autonomic 
testing. Furthermore, her ___ medications, including 
Ropinerol and Carbidopa/Levodopa may be causing her episodic 
orthostasis and dizziness. After speaking with the inpatient 
neurology team, there was no concern for seizure activity or an 
acute neurological process that required inpatient evaluation; a 
neurology follow up has been arranged (second opinion) here at 
___ in ___ where she will likely undergo further testing 
and may require repeat autonomic testing. By discharge, she was 
able to walk independently and was prescribed ___ stockings. She 
was also prescribed oral Zofran due to episodic nausea that 
often occurs with positional changes. 

# Musculoskeletal pain: secondary to trauma, most severe along 
her right neck, left shoulder and abdomen. Exam notable for 
diffuse ecchymosis, most notably under her right eye, right 
breast, upper abdomen/ribs and right leg. Prescribed standing 
ibuprofen, acetaminophen and lidocaine patches at discharge. 

CHRONIC ISSUES:
====================
# ___ disease
Per patient, she was diagnosed with ___ disease at age 
___ after a traumatic brain injury (MVA with multiple fractures 
and 9h LOC in ___ ___ years ago). She was told at the time she 
likely had a pre-disposition due to father and maternal GF both 
having the disease, which was unmasked by the TBI. Currently 
symptoms are well controlled on Carbidopa/Levodopa and 
Ropinirole, though these may be leading to adverse effects of 
orthostasis and dizziness. Note that she had a dopamine reuptake 
study in ___ and the findings were not consistent with 
Parkinsonian syndromes. 

# Possible history of stroke vs Migraine with aura: 
Recent hospitalization with acute onset L sided paresthesias and 
hemiplegia. Her primary neurologist, Dr ___ this to 
be a stroke. She saw Dr. ___ thought this incident more 
likely represented severe migraine with aura given that she had 
a terrible headache at the time. She was discharged on ASA 81 
since then and this was continued inpatient. 

TRANSITIONAL ISSUES:
====================
Primary care follow up:
- Patient scheduled for neurology appointment with new 
neurologist for second opinion on ___. Please consider 
arranging for a sooner appointment either with her current 
neurologist or a new neurologist at ___. 
- Please encourage patient to do the following:
1. Place a gate at the top of her stairs
2. Install a shower bar and possibly a shower chair
3. Purchase life alert
4. Wear ___ stockings

Neurology follow up:
- Ongoing work up for syncopal episodes
- Consider decreasing doses of home Ropinerole and/or 
Carbidopa/Levodopa as these may be contributing to her dizziness 
and episodic hypotension
- Consider repeat autonomic nervous system testing (prior eval 
___
- Consider Fludricortisone as opposed to Midodrine for 
orthostasis

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbidopa-Levodopa (___) 2 TAB PO TID 
2. rOPINIRole 2 mg PO BID 
3. Midodrine Dose is Unknown  PO PRN lightheadedness 
4. Aspirin 81 mg PO DAILY 
5. Acetaminophen-Caff-Butalbital ___ TAB PO PRN Headache 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 6 hours. 
Disp #*60 Tablet Refills:*0 
2.  Ibuprofen 800 mg PO Q8H 
RX *ibuprofen 800 mg 1 tablet(s) by mouth every 8 hours with 
food. Disp #*30 Tablet Refills:*0 
3.  Lidocaine 5% Patch 2 PTCH TD QAM 
RX *lidocaine 5 % Apply to skin once daily for 12 hours at a 
time Disp #*15 Patch Refills:*0 
4.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
RX *ondansetron 4 mg ___ tablet(s) by mouth every 8 hours Disp 
#*15 Tablet Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Carbidopa-Levodopa (___) 2 TAB PO TID  
7.  rOPINIRole 2 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Discharge Worksheet-Discharge Diagnosis-Finalized:___ 
___, MD on ___ @ 1759
PRIMARY:
==================
Recurrent syncope of unknown etiology
Musculoskeletal pain

SECONDARY:
==================
History of early onset ___ disease following a traumatic 
brain injury
History of possible stroke vs migraine with aura
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ 
because you fainted and fell down the stairs.

What happened in the hospital?
- You had an EKG which was normal except for a slightly low 
heart rate
- You had an ultrasound of your heart (called an ECHO) which was 
normal
- You were given pain medication because you are very bruised
- Your doctors spoke to your outpatient neurologist and the 
inpatient neurology team. The inpatient neurology team was not 
concerned for a seizure and would like to see you as an 
outpatient.

What should I do when I get home?
- Please go to your follow up appointments (see below). We have 
arranged for you to be seen by a neurologist here at ___ for a 
second opinion and further work up of your fainting episodes. 
They may also want to have you go for autonomic testing like you 
did in ___. 

- It is possible that your fainting episodes are due to your 
Ropinerole and/or Carbidopa/Levodopa. You may want to schedule a 
follow up appointment with your current neurologist in the next 
___ weeks to discuss decreasing the doses of one or both of 
these medications. 

- Please take your medications as prescribed

- We have prescribed you the following medications for your 
pain:
1. Acetaminophen (Tylenol) 1,000 mg every 6 hours. You should 
take this every 6 hours for at least 2 days, and then take it as 
needed.
2. Ibuprofen (Advil/Motrin) 800 mg every 8 hours WITH FOOD. You 
should take this every 8 hours for at least 2 days, and then 
take it as needed.
3. Lidocaine patches - to be worn for 12 hours a day

- We have also prescribed you a medication called Ondansetron 
(Zofran) which can be taken for nausea. This can cause 
constipation so please take miralax and/or senna (laxatives) if 
you become constipated. 

- Please make sure to drink plenty of water and eat salty foods. 
When you go from sitting to standing, please do so slowly. 

- We recommend that you purchase ___ stocking to help increase 
blood flow to your brain while you are up and walking. You can 
buy these on ___ or at a pharmacy.

- If you are feeling nauseated, sweaty or light headed, please 
sit down as this may be a sign that you are about to faint.

- Please place a gate at the front of your stairs to help 
prevent you from falling down them. We would also recommend 
placing a bar in your shower to grab on to if needed.

- Finally, it may be in your best interest to purchase a "life 
alert" or other device that will monitor you for falls.

It was a pleasure taking part in your care. We wish you all the 
best with your health. 

Sincerely,
The team at ___

 
Followup Instructions:
___